US07662771B2
Add anhydrous dimethyl sulfoxide (0.25 mL, 3.52 mmol) dropwise over 2 minutes to a solution of oxalyl chloride (393 mg, 3.10 mmol) in methylene chloride (10 mL) at −78° C. under nitrogen and stir the mixture for 20 minutes. Add a solution of 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptan-1-ol (0.609 g, 1.99 mmol) in methylene chloride (10 mL) dropwise in 5 minutes and then stir the mixture for 30 minutes. To this mixture, add triethylamine (1.0 mL, 7.2 mmol), stir and warm the reaction mixture to room temperature for 40 minutes. Dilute the mixture with ethyl acetate (100 mL), wash with brine (3×30 mL), dry over sodium sulfate and remove the solvent under reduced pressure to provide 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanal (0.6 g, 99%): APCI mass spectrum m/z 304 [C17H21NO2S+H]+.

reactant | dimethyl sulfoxide | 3.52 mmol, 0.25 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 3.10 mmol, 393 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptan-1-ol | 1.99 mmol, 0.609 g | COC1=CC=C(C=C1)C=1N=C(SC1)CCCCCCCO | C17H23NO2S
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanal | 0.6 g, 99% | COC1=CC=C(C=C1)C=1N=C(SC1)CCCCCCC=O | C17H21NO2S
